US07985769B2
A solution of 3-Iodo-5-phenyl-thiophene-2-carboxylic acid methyl ester (4.4 g, 12.78 mmol) in dioxane/water 4/1 (50 ml), at 21° C., under N2, was treated with lithium hydroxyde (2N, 19.3 ml, 38 mmol) and the solution left to stir for 21.5 h. The reaction mixture was evaporated to dryness and the residue partitioned between EtOAc (75 ml) and water (25 ml) and acidified with 2N HCl to pH 5.5. The aqueous phase was separated and extracted with EtOAc (3×50 ml). The combined organic extract were washed with brine, dried and evaporated to give 4.12 g (97%) of 3-Iodo-5-phenyl-thiophene-2-carboxylic acid as a pale yellow solid. NMR 1H (CD3OD, 400 MHz): 7.69-7.67 (m, 2H); 7.55 (s, 1H); 7.46-7.39 (m, 3H).

reactant | 3-Iodo-5-phenyl-thiophene-2-carboxylic acid methyl ester | 12.78 mmol, 4.4 g | COC(=O)C=1SC(=CC1I)C1=CC=CC=C1 | C12H9IO2S
reactant | lithium | [Li] | Li
solvent | dioxane water | 50 ml | O1CCOCC1.O
product | 3-Iodo-5-phenyl-thiophene-2-carboxylic acid | 4.12 g, 97% | IC1=C(SC(=C1)C1=CC=CC=C1)C(=O)O | C11H7IO2S
